US07247734B2
This compounds was synthesised in the same manner as described above. 2-(4-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone (1.5 g, 4.4 mmol), Acetic anhydride (2.0 ml), Potassium carbonate (2.1 g 15.2 mmol). 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one was obtained an off white solid (1.2 g, 74.5%).

reactant | 2-(4-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | 4.4 mmol, 1.5 g | BrC1=CC=C(C=C1)CC(=O)C1=C(C=C(C(=C1)Cl)O)O | C14H10BrClO3
reactant | Acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
product | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one | BrC1=CC=C(C=C1)C1=C(OC2=CC(=C(C=C2C1=O)Cl)O)C | C16H10BrClO3
